.include /foss/designs/adc8b/IHP__MSPHY9932/MSPHY9932-main/netlist/pex/side_cap8b_pex.scap.spice
** sch_path: /foss/designs/adc8b/sch/adc8b.sch
.subckt adc8b vdd vddr vss vip vin cks data[0] data[1] data[2] cko frame
*.PININFO vddr:I vss:I vip:I vin:I data[0:2]:O cko:O cks:I vdd:I frame:O
x7 vddr vss ph_sw[0] ph_sw[1] ph_sw[2] ph_sw[3] ph_sw[4] ph_sw[5] ph_sw[6] ph_sw[7] ph_sw[8] ph_sw[9] ph_sw[10] pl_sw[0] pl_sw[1]
+ pl_sw[2] pl_sw[3] pl_sw[4] pl_sw[5] pl_sw[6] pl_sw[7] pl_sw[8] pl_sw[9] pl_sw[10] vcp side_cap8b
x8 vddr vss nh_sw[0] nh_sw[1] nh_sw[2] nh_sw[3] nh_sw[4] nh_sw[5] nh_sw[6] nh_sw[7] nh_sw[8] nh_sw[9] nh_sw[10] nl_sw[0] nl_sw[1]
+ nl_sw[2] nl_sw[3] nl_sw[4] nl_sw[5] nl_sw[6] nl_sw[7] nl_sw[8] nl_sw[9] nl_sw[10] vcn side_cap8b
x9 vss vdd ckc cko cks comp_p data[0] data[1] data[2] frame nh_sw[0] nh_sw[10] nh_sw[1] nh_sw[2] nh_sw[3] nh_sw[4] nh_sw[5]
+ nh_sw[6] nh_sw[7] nh_sw[8] nh_sw[9] nl_sw[0] nl_sw[10] nl_sw[1] nl_sw[2] nl_sw[3] nl_sw[4] nl_sw[5] nl_sw[6] nl_sw[7] nl_sw[8] nl_sw[9]
+ ph_sw[0] ph_sw[10] ph_sw[1] ph_sw[2] ph_sw[3] ph_sw[4] ph_sw[5] ph_sw[6] ph_sw[7] ph_sw[8] ph_sw[9] pl_sw[0] pl_sw[10] pl_sw[1] pl_sw[2]
+ pl_sw[3] pl_sw[4] pl_sw[5] pl_sw[6] pl_sw[7] pl_sw[8] pl_sw[9] rdy sar12b
x10 vip vin cks vdd vss vcp vcn diff_bsw
x11 vdd vss vcp vcn ckc rdy comp_p comp_n cmp
**** begin user architecture code


*.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice

*xvddr vss vdd iovss iovdd vddr vddr_res sg13cmos5l_IOPadAnalog
*xvip vss vdd iovss iovdd vip vip_res sg13cmos5l_IOPadAnalog
*xvin vss vdd iovss iovdd vin vin_res sg13cmos5l_IOPadAnalog
*xcks vss vdd iovss iovdd cks cks_res sg13cmos5l_IOPadAnalog
*xvdd vss vdd iovss iovdd sg13cmos5l_IOPadVdd
*xvss vss vdd iovss iovdd sg13cmos5l_IOPadVss
*xd1 vss vdd iovss iovdd data[0] dout[0] sg13cmos5l_IOPadAnalog
*xd2 vss vdd iovss iovdd data[1] dout[1] sg13cmos5l_IOPadAnalog
*xd3 vss vdd iovss iovdd data[2] dout[2] sg13cmos5l_IOPadAnalog
*xd4 vss vdd iovss iovdd data[3] dout[3] sg13cmos5l_IOPadAnalog
*xd5 vss vdd iovss iovdd data[4] dout[4] sg13cmos5l_IOPadAnalog
*xd6 vss vdd iovss iovdd data[5] dout[5] sg13cmos5l_IOPadAnalog
*xd7 vss vdd iovss iovdd data[6] dout[6] sg13cmos5l_IOPadAnalog
*xd8 vss vdd iovss iovdd data[7] dout[7] sg13cmos5l_IOPadAnalog
*xd9 vss vdd iovss iovdd data[8] dout[8] sg13cmos5l_IOPadAnalog
*xd10 vss vdd iovss iovdd data[9] dout[9] sg13cmos5l_IOPadAnalog
*xd11 vss vdd iovss iovdd data[10] dout[10] sg13cmos5l_IOPadAnalog
*xd12 vss vdd iovss iovdd data[11] dout[11] sg13cmos5l_IOPadAnalog
*xcko vss vdd iovss iovdd cko eoc sg13cmos5l_IOPadAnalog


**** end user architecture code
.ends


* expanding   symbol:  sar12b.sym # of pins=13
** sym_path: /foss/designs/adc8b/sch/sar12b.sym
.include /foss/designs/adc8b/sch/simulations/sar12b.spice

* expanding   symbol:  diff_bsw.sym # of pins=7
** sym_path: /foss/designs/adc8b/sch/diff_bsw.sym
** sch_path: /foss/designs/adc8b/sch/diff_bsw.sch
.subckt diff_bsw vip vin ck vdd vss vcp vcn
*.PININFO vip:I vin:I ck:I vdd:I vss:I vcp:O vcn:O
x1 vip ck vdd vss vcp single_bsw
x2 vin ck vdd vss vcn single_bsw
.ends


* expanding   symbol:  cmp.sym # of pins=8
** sym_path: /foss/designs/adc8b/sch/cmp.sym
** sch_path: /foss/designs/adc8b/sch/cmp.sch
.subckt cmp vdd vss vip vin clk rdy outp outn
*.PININFO vdd:I vss:I vip:I vin:I clk:I rdy:O outp:O outn:O
MM14 outn clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2
MM1 outp outn vdd vdd sg13_lv_pmos w=2.5u l=0.13u ng=2
MM2 outp clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2
MM3 outn outp vdd vdd sg13_lv_pmos w=2.5u l=0.13u ng=2
MM5 net4 vip net1 vss sg13_lv_nmos w=10.0u l=0.13u ng=2
MM6 net1 clk vss vss sg13_lv_nmos w=2.0u l=0.13u ng=4
MM7 net5 vin net1 vss sg13_lv_nmos w=10.0u l=0.13u ng=2
x1 net6 net2 net3 vdd vss sg13cmos5l_or2_1
MM4 outn outp net4 vss sg13_lv_nmos w=10.0u l=0.13u ng=2
MM8 outp outn net5 vss sg13_lv_nmos w=10.0u l=0.13u ng=2
MM9 net4 clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2
MM10 net5 clk vdd vdd sg13_lv_pmos w=1.0u l=0.13u ng=2
x6 net2 outp vdd vss sg13cmos5l_inv_1
x7 net3 outn vdd vss sg13cmos5l_inv_1
x2 vdd vss sg13cmos5l_decap_4
x3 vdd vss sg13cmos5l_decap_4
x4 rdy net6 vdd vss sg13cmos5l_dlygate4sd3_1
.ends








* expanding   symbol:  single_bsw.sym # of pins=5
** sym_path: /foss/designs/adc8b/sch/single_bsw.sym
** sch_path: /foss/designs/adc8b/sch/single_bsw.sch
.subckt single_bsw in ck vdd vss out
*.PININFO vdd:I vss:I in:I ck:I out:O
MM1 vdd net2 net1 vss sg13_lv_nmos w=1.3u l=0.13u ng=1
MM3 vdd net1 net2 vss sg13_lv_nmos w=1.3u l=0.13u ng=1
MM4 vgs net9 net3 net3 sg13_lv_pmos w=0.5u l=0.13u ng=1
MM2 vdd net2 net3 vss sg13_lv_nmos w=1.3u l=0.13u ng=1
MM6 net5 gp vdd vdd sg13_lv_pmos w=500n l=130n ng=1
MM5 net5 vdd net4 vss sg13_lv_nmos w=3u l=0.13u ng=1
MM7 net4 ckb vss vss sg13_lv_nmos w=3u l=0.13u ng=1
MM8 net6 net5 in vss sg13_lv_nmos w=3u l=0.13u ng=1
MM9 out vgs in vss sg13_lv_nmos w=2.5u l=0.13u ng=1
MM10 net7 vdd vgs vss sg13_lv_nmos w=500n l=0.13u ng=1
MM11 vss ckb net7 vss sg13_lv_nmos w=500n l=0.13u ng=1
MM12 net6 ckb vss vss sg13_lv_nmos w=1.3u l=0.4u ng=1
x1 net8 ckb vdd vss sg13cmos5l_inv_1
x2 net9 gp vdd vss sg13cmos5l_inv_1
x3 ckb ck vdd vss sg13cmos5l_inv_1
CC2 net3 net6 cap_mfringe w=40.0u l=10.0u mmin=1 mmax=4
CC1 net1 net8 cap_mfringe w=8.0u l=8.0u mmin=1 mmax=4
CC3 net2 ckb cap_mfringe w=8.0u l=8.0u mmin=1 mmax=4
x4 vdd vss sg13cmos5l_decap_4
x5 vdd vss sg13cmos5l_decap_4
x6 vdd vss sg13cmos5l_decap_4
.ends

